US06127391
At 0° C., cyclopropylisothiocyanate (0.32 ml) was added to a solution of N-((1R)-1-aminomethyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester (410 mg, 1.6 mmol) in dichloromethane (4 ml). The reaction mixture was first stirred at 0° C. for 10 min, and successively for 2.5 h at room temperature. The solvent were removed in vacuo. The crude product was purified by flash chromatography on silica (50 g) using ethyl acetate/heptane as eluent to give 492 mg of N-((1R)1-benzyl-2-(3-cyclopropylthioureido)ethyl)-N-methylcarbamic acid tert-butylester.

reactant | cyclopropylisothiocyanate | 0.32 ml | C1(CC1)N=C=S | C4H5NS
reactant | N-((1R)-1-aminomethyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 1.6 mmol, 410 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)CN)=O | C15H24N2O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-((1R)1-benzyl-2-(3-cyclopropylthioureido)ethyl)-N-methylcarbamic acid tert-butylester | 492 mg | C(C)(C)(C)OC(N(C)[C@@H](CNC(=S)NC1CC1)CC1=CC=CC=C1)=O | C19H29N3O2S
